US06998414B2
A mixture of N-(4-Methoxy-phenyl)-2-(4-nitro-phenyl)-acetamide (859 mg, 3 mmol), 5% Pd on C (16 mg) and EtOH (20 mL) was stirred under a hydrogen atmosphere (1 atm) for 5 hr. Filtration of the catalyst and evaporation of the solvent afforded 2-(4-Amino-phenyl)-N-(4-methoxy-phenyl)-acetamide (732 mg, 95%).

reactant | N-(4-Methoxy-phenyl)-2-(4-nitro-phenyl)-acetamide | 3 mmol, 859 mg | COC1=CC=C(C=C1)NC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H14N2O4
catalyst | Pd | [Pd] | Pd
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-(4-Amino-phenyl)-N-(4-methoxy-phenyl)-acetamide | 732 mg, 95% | NC1=CC=C(C=C1)CC(=O)NC1=CC=C(C=C1)OC | C15H16N2O2
